US07288544B2
Synthesis of 4-(3-chlorophenyl)-5-(1,4-diazepan-1-carbonyl)-2,6-dimethylnicotinic acid (3,3-diphenylpropyl) ester
200 mg (0.398 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester, 120 mg (1.20 mmol) of homopiperazine and 230 mg (1.20 mmol) of WSC hydrochloride were stirred in 6 ml of dichloromethane at room temperature overnight. 0.8 ml of DMF was added and stirred at 60° C. for 5 hours. After concentration under reduced pressure, chloroform was added. After being washed with saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained substance was dissolved in 5 ml of dichloromethane. 2 ml of trifluoroacetate was added and stirred at room temperature for 30 minutes. After concentration under reduced pressure, ethyl acetate was added and the reaction mixture was washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the thin layer silica gel chromatography (dichloromethane/methanol=9/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | 0.398 mmol, 200 mg | C1(=CC=CC=C1)C(CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H28ClNO4
reactant | homopiperazine | 1.20 mmol, 120 mg | N1CCNCCC1 | C5H12N2
reactant | WSC hydrochloride | 1.20 mmol, 230 mg | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-5-(1,4-diazepan-1-carbonyl)-2,6-dimethylnicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C(=C1C1=CC(=CC=C1)Cl)C(=O)N1CCNCCC1)C)C)=O)C1=CC=CC=C1 | C35H36ClN3O3
